US08614327B2
4-(3-Methylpiperidin-1-yl)-2-(trifluoromethyl)aniline
2-Methoxy-4-(pyrrolidin-1-yl)aniline can be synthesized following the general scheme above starting from 5-fluoro-2-nitrobenzotrifluoride and 3-methylpiperidine. 1H NMR (400 MHz, CDCl3) δ 7.05-6.93 (m, 2H), 6.69 (d, J=8.7 Hz, 1H), 3.85 (s, 2H), 3.42-3.29 (m, 2H), 2.52 (td, J=11.5, 3.1 Hz, 1H), 2.25-2.15 (m, 1H), 1.86-1.62 (m, 5H), 0.94 (d, J=6.4 Hz, 3H). LC/MS: m/z 259.0 (M+H)+ at 0.79 min (10%99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-Methoxy-4-(pyrrolidin-1-yl)aniline | COC1=C(N)C=CC(=C1)N1CCCC1 | C11H16N2O
reactant | 5-fluoro-2-nitrobenzotrifluoride | FC=1C=CC(=C(C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | 3-methylpiperidine | CC1CNCCC1 | C6H13N
reactant | CH3CN | CC#N | C2H3N
solvent | H2O | O | H2O
product | 4-(3-Methylpiperidin-1-yl)-2-(trifluoromethyl)aniline | CC1CN(CCC1)C1=CC(=C(N)C=C1)C(F)(F)F | C13H17F3N2
